US07960552B2
A solution of 820 mg (1.93 mmol) of methyl (2E)-3-(4-bromophenyl)-2-({[(4-methylphenyl)sulfonyl]amino}methyl)-2-propenoate, 995 mg (3.09 mmol) of bis(acetyloxy)(phenyl)-λ3-iodane and 490 mg (1.93 mmol) of iodine in 35 mL of 1,2-dichloroethane were stirred at 70° C. for 30 min. The solvent was evaporated and the residue taken up in 25 mL DMF and 1.07 g (7.73 mmol) of K2CO3 was added. The mixture was stirred at 120° C. for 6 hr. EtOAc was added and the organics were washed with three portions of H2O then brine. The solution was then concentrated and the residue purified by silica gel chromatography (40 g of silica gel eluting with 0-40% EtOAc in hexanes over 45 minutes) to give 80 mg (16%) of methyl 7-bromo-3-quinolinecarboxylate as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 9.34 (s, 1H), 8.81 (s, 1H), 8.35 (s, 1H), 7.80 (d, J=9 Hz, 1H), 7.73 (d, J=9 Hz, 1H), 4.02 (s, 3H). ESI-LCMS m/z 267 (M+H)+.

reactant | methyl (2E)-3-(4-bromophenyl)-2-({[(4-methylphenyl)sulfonyl]amino}methyl)-2-propenoate | 1.93 mmol, 820 mg | BrC1=CC=C(C=C1)/C=C(/C(=O)OC)\CNS(=O)(=O)C1=CC=C(C=C1)C | C18H18BrNO4S
reactant | bis(acetyloxy)(phenyl)-λ3-iodane | 3.09 mmol, 995 mg | C(C)(=O)OI(C1=CC=CC=C1)OC(C)=O | C10H11IO4
reactant | iodine | 1.93 mmol, 490 mg | II | I2
reactant | K2CO3 | 7.73 mmol, 1.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 7-bromo-3-quinolinecarboxylate | 80 mg, 16% | BrC1=CC=C2C=C(C=NC2=C1)C(=O)OC | C11H8BrNO2
